US05652239
b. Diethyl 7-Chloroindole-2,3-dicarboxylate
Diethyl acetylenedicarboxylate (1.0 mL, 5.9 mM) was added to a stirred solution of 2,2'-dichlorohydrazobenzene (1.2 g, 6 mM) in methanol (25 mL). The resulting solution was refluxed for 2 hours. The reaction mixture was then cooled to room temperature and concentrated. Purification by flash chromatography afforded material which was then dissolved in diphenyl ether (3 mL) and heated at 200° C. for 2 hrs. The reaction mixture was then cooled to room temperature and purified by flash column chromatography. This afforded the titled compound (0.6 g, 48%) as a red oil. MS(CI): 296(M+1).

reactant | Diethyl acetylenedicarboxylate | 5.9 mM, 1.0 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | 2,2'-dichlorohydrazobenzene | 6 mM, 1.2 g | ClN(NC1=CC=CC=C1)C1=C(C=CC=C1)Cl | C12H10Cl2N2
solvent | methanol | 25 mL | CO | CH4O
solvent | diphenyl ether | 3 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Diethyl 7-Chloroindole-2,3-dicarboxylate | 0.6 g, 48% | ClC=1C=CC=C2C(=C(NC12)C(=O)OCC)C(=O)OCC | C14H14ClNO4
